US07622469B2
3,6-Dihydro-6,6-diethyl-4-heptylamino-2-benzylamino-1,3,5-triazine hydrochloride
100 ml of methanol, 150 ml of 3-pentanone, and 0.5 ml of concentrated hydrochloric acid were added to 6.0 g (15.6 mmol) of N1-benzyl-N5-heptyl-biguanide dihydrochloride. The mixture was refluxed for 24 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in 100 ml of methanol, and to the solution were added 80 ml of water and 5 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 1.5 hours, concentrated under reduced pressure and extracted with ethyl acetate. The extract was washed with water, and acidified with 6N hydrochloric acid, and concentrated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1)) to obtain 4.7 g of a pale yellow resinous solid.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | N1-benzyl-N5-heptyl-biguanide dihydrochloride | 15.6 mmol, 6.0 g | Cl.Cl.C(C1=CC=CC=C1)NC(=N)NC(=N)NCCCCCCC
solvent | 3-pentanone | 150 ml | CCC(CC)=O | C5H10O
product | 3,6-Dihydro-6,6-diethyl-4-heptylamino-2-benzylamino-1,3,5-triazine hydrochloride | 4.7 g | Cl.C(C)C1(N=C(NC(=N1)NCC1=CC=CC=C1)NCCCCCCC)CC | InChI=1S/C21H35N5.ClH/c1-4-7-8-9-13-16-22-19-24-20(26-21(5-2,6-3)25-19)23-17-18-14-11-10-12-15-18;/h10-12,14-15H,4-9,13,16-17H2,1-3H3,(H3,22,23,24,25,26);1H
